US08227801B2
Synthesis of 3-bromo-9-(dibenzo[b,d]thiophen-4-yl)-9H-carbazole.
9-(dibenzo[b,d]thiophen-4-yl)-9H-carbazole (6 g, 17.17 mmol) was dissolved in 100 mL of DMF. The solution was cooled to 0° C. To the solution was added NBS (3.36 g, 18.89 mmol) in 20 mL of DMF dropwise. After stirring at this temperature for 1 h, HPLC indicated there was very little reaction. The reaction was warmed to room temperature and monitored by HPLC. After 24 h, 500 mL of water was added to the reaction and stirred at room temperature for 2 h. The white precipitate was filtered and washed with water. The solid was dissolved in DCM and washed with water and dried over MgSO4. The residue was used directly for the next step. The product contains 10% of starting material, 80% of desired product and 10% of dibrominated product.

reactant | 9-(dibenzo[b,d]thiophen-4-yl)-9H-carbazole | 17.17 mmol, 6 g | C1=CC=C(C=2SC3=C(C21)C=CC=C3)N3C2=CC=CC=C2C=2C=CC=CC32 | C24H15NS
reactant | NBS | 18.89 mmol, 3.36 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | water | 500 mL | O | H2O
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 3-bromo-9-(dibenzo[b,d]thiophen-4-yl)-9H-carbazole | BrC=1C=CC=2N(C3=CC=CC=C3C2C1)C1=CC=CC2=C1SC1=C2C=CC=C1 | C24H14BrNS
